US06700001B2
Treatment of 5-(benzyloxy)-6-[(1E)-prop-1-enyl]quinoline in methylene chloride with excess ozone at −78° C. followed by addition of diisopropylethylamine, aqueous work-up, and subsequent purification by flash column chromatography provides 5-(benzyloxy)quinoline-6-carbaldehyde.

reactant | 5-(benzyloxy)-6-[(1E)-prop-1-enyl]quinoline | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1\C=C\C | C19H17NO
reactant | ozone | O=[O+][O-] | O3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(benzyloxy)quinoline-6-carbaldehyde | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1C=O | C17H13NO2
